US05102897
A solution of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide (0.50 g, 1.54 mmol) in dioxane (15 mL) is added to a solution of sodium bicarbonate (0.14 g, 1.62 mmol) in water (4 mL). Cyanogen bromide (0.17 g, 1.62 mmol) is added in four equal portions at 1-minute intervals, and stirring is continued for 5 hours. The reaction mixture is diluted with ethyl acetate and sequentially washed with aqueous sodium bicarbonate, water, and brine. Drying the organic phase over magnesium sulfate and evaporation provides a solid which is crystallized from ethyl acetate/hexane to give 0.42 g (78%) of 4-[[2-(5-amino-1,3,4-oxadiazol-2-yl)ethyl]thio]-2,6-bis(1,1-dimethylethyl)phenol, mp 172.0°-174.0° C.

reactant | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide | 1.54 mmol, 0.50 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NN | C17H28N2O2S
reactant | sodium bicarbonate | 1.62 mmol, 0.14 g | C([O-])(O)=O.[Na+]
reactant | Cyanogen bromide | 1.62 mmol, 0.17 g | N#CBr | CBrN
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[[2-(5-amino-1,3,4-oxadiazol-2-yl)ethyl]thio]-2,6-bis(1,1-dimethylethyl)phenol | 0.42 g, 78% | NC1=NN=C(O1)CCSC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C18H27N3O2S
